US07777038B2
3.02 g of ethyl chloro-(8-methoxy-1-methyl-2-oxo-1,2-dihydroquinolin-5-yl)acetate, 1.4 g of thiourea, and 2 g of sodium acetate were added to 50 ml of methoxyethanol, followed by stirring at 110° C. for 2.5 hours. The reaction mixture was concentrated under reduced pressure. Water was added to the residue to precipitate a solid, and the precipitated solid was collected by filtration. The collected solid was added to a mixed solvent of 30 ml of 10% hydrochloric acid and 30 ml of ethanol, followed by heating and refluxing overnight. The resultant was concentrated to half its original volume under reduced pressure. Water was added thereto, and the mixture was cooled with ice to precipitate a solid. The precipitated solid was collected by filtration. The solid was recrystallized from a DMF-ethanol mixed solvent, giving 1.68 g (57% yield) of 5-(8-methoxy-1-methyl-2-oxo-1,2-dihydroquinolin-5-yl)thiazolidine-2,4-dione as a gray powder.

reactant | ethyl chloro-(8-methoxy-1-methyl-2-oxo-1,2-dihydroquinolin-5-yl)acetate | 3.02 g | ClC(C(=O)OCC)C1=C2C=CC(N(C2=C(C=C1)OC)C)=O | C15H16ClNO4
reactant | thiourea | 1.4 g | NC(=S)N | CH4N2S
reactant | sodium acetate | 2 g | C(C)(=O)[O-].[Na+]
solvent | methoxyethanol | 50 ml | COC(C)O | C3H8O2
product | 5-(8-methoxy-1-methyl-2-oxo-1,2-dihydroquinolin-5-yl)thiazolidine-2,4-dione | 1.68 g, 57% yield | COC=1C=CC(=C2C=CC(N(C12)C)=O)C1C(NC(S1)=O)=O | C14H12N2O4S
